US08729112B2
4-(Hydroxymethyl)-1,4-dimethylimidazolidin-2-one
In a round bottom flask, a mixture of 2-amino-2-methyl-3-(methylamino)propan-1-ol hydrochloride (3.3 g, 21 mmol) and urea (1.26 g, 21 mmol) were heated in a 200° C. sand bath for 1 hour until ammonia gas ceased to evolve. The resultant mixture was suspended in dichloromethane and filtered to remove insoluble material. The organic solution was concentrated to 3.3 g of black solid and purified by column chromatography, eluting from silica gel with a gradient of 1-12% methanol in dichloromethane to give 1.3 g of desired product as a tan oil (45% yield). 1H NMR (400 MHz, CDCl3) δ1.26 (s, 3H), 2.76 (s, 3H), 3.07-3.9 (d, J=8.8 Hz, 1H), 3.36-3.36 (d, J=8.8 Hz, 1H), 3.43-3.44 (d, J=2.1 Hz, 2H), 3.46 (s, 1H). 13C NMR (100 MHz, CDCl3/MeOD) δ 23.5, 30.1, 50.0, 55.7, 67.7, 161.9. LRMS (ESI/APCI): 145 [M+H]+.

reactant | 2-amino-2-methyl-3-(methylamino)propan-1-ol hydrochloride | 21 mmol, 3.3 g | Cl.NC(CO)(CNC)C
reactant | urea | 21 mmol, 1.26 g | NC(=O)N | CH4N2O
reactant | ammonia | N | H3N
reactant | dichloromethane | ClCCl | CH2Cl2
product | 4-(Hydroxymethyl)-1,4-dimethylimidazolidin-2-one | 1.3 g, 45% yield | OCC1(NC(N(C1)C)=O)C | C6H12N2O2
